US06232430B1
N-(4-[2,3-Epoxypropyl]oxyphenyl)maleimide (step 6)
N-(4-Allyloxyphenyl)maleimide (175 g, 76.4 mole) and 3-chloroperoxybenzoic acid (262 g, 70-75%, Across) were dissolved in 2.0 l of dichloromethane. After stirring for 72 h at room temperature, the reaction mixture was concentrated under reduced pressure to a slurry. Ether (2.0 l) was added to the slurry and stirred for 0.5 h at room temperature. The product was filtered off, washed with ether, and dried in an oven.

reactant | N-(4-Allyloxyphenyl)maleimide | 76.4 mole, 175 g | C(C=C)OC1=CC=C(C=C1)N1C(C=CC1=O)=O | C13H11NO3
reactant | 3-chloroperoxybenzoic acid | 262 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 2.0 l | ClCCl | CH2Cl2
product | N-(4-[2,3-Epoxypropyl]oxyphenyl)maleimide | O1C(COC2=CC=C(C=C2)N2C(C=CC2=O)=O)C1 | C13H11NO4
